US20010014683A1
5-Nitro-N-propyl-2-thiophenecarboxamide
To a solution of 5-nitro-2-thiophenecarboxylic acid (967 mg, 5.59 mmol) in DMF (0.745 ml) and CH2Cl2 (4 ml) was added oxalyl chloride at 0° C. After stirring for 0.5 h at rt (room temperature), the solvent was evaporated below 30° C. to give yellow oil and solid. To a solution of n-propylamine (0.551 ml, 6.71 mmol) in Et3N (1.87 ml, 13.4 mmol) and CH2Cl2 (25 ml) was added a solution of crude acid chloride in CH2Cl2 (10 ml) below 20° C. After stirring for 4 h at rt, the mixture was washed with water, saturated NaHCO3 aqueous solution, water, brine, dried (Na2SO4), and concentrated to give brown solid, which was purified by column chromatography (silica gel 50 g, CH2Cl2/MeOH=100/1-30/1) to afford 815 mg (68%) of white solid.

reactant | 5-nitro-2-thiophenecarboxylic acid | 5.59 mmol, 967 mg | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | n-propylamine | 6.71 mmol, 0.551 ml | C(CC)N | C3H9N
reactant | Et3N | 13.4 mmol, 1.87 ml | CCN(CC)CC | C6H15N
solvent | DMF | 0.745 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-Nitro-N-propyl-2-thiophenecarboxamide | 815 mg, 68% | [N+](=O)([O-])C1=CC=C(S1)C(=O)NCCC | C8H10N2O3S
